US04689339
3,5-Dimethyl-indene-2-carboxylic acid chloride
3,5-Dimethyl-indene-2-carboxylic acid (37.3 g) is converted to its acid chloride by treatment with thionyl chloride (580 ml). Excess thionyl chloride is distilled off. Yield 40.5 g, 99%.

reactant | 3,5-Dimethyl-indene-2-carboxylic acid | 37.3 g | CC1=C(CC2=CC=C(C=C12)C)C(=O)O | C12H12O2
reactant | thionyl chloride | 580 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,5-Dimethyl-indene-2-carboxylic acid chloride | CC1=C(CC2=CC=C(C=C12)C)C(=O)Cl | C12H11ClO
